US08003796B2
Step A. Preparation of 2-((dimethylamino)methylene)pentanal
To a solution of phosphorus oxychloride (2.330 mL, 25.00 mmol, Aldrich) in 1,2-dichloroethane (5.0 mL) at 0° C. was added DMF (7.74 mL, 100 mmol, EMD) in 1,2-dichloroethane (10.0 mL) during the course of 10 min. The mixture was stirred at 0° C. for 20 min and then warmed up to room temperature. After stirring at room temperature for 3 hrs, valeraldehyde (2.66 mL, 25.0 mmol, Aldrich) in 1,2-dichloroethane (5.0 mL) was added dropwise (5 min) and the resulting mixture was stirred at room temperature for 50 min and at 85° C. for 50 min. The cooled reaction mixture was poured into a mixture of ice and K2CO3 (7.5 g) followed by addition of saturated K2CO3 aqueous solution until the pH of the mixture was around 10. To the above mixture, dimethyl amine (8.0 mL, 40 wt. % solution in water, Aldrich) was added and the reaction mixture was heated at 80° C. for 1 hr, cooled and evaporated under reduced pressure to remove 1,2-dichloroethane. The resulting mixture was then heated at 95° C. for 1 hr, cooled to room temperature and extracted with EtOAc (3×). The combined extracts were washed with brine, dried (Na2SO4) and concentrated in vacuo. The residue was distilled under reduced pressure (1 torr at 145-155° C. of oil bath) to yield the title compound (200 mg, 5.7%) as an orange oil. 1H NMR (500 MHz, CDCl3) δ 8.85 (s, 1H), 6.48 (s, 1H), 3.13 (s, 6H), 2.30-2.45 (m, 2H), 1.32-1.53 (m, 2H), 0.93 (t, J=7.42 Hz, 3H).

reactant | phosphorus oxychloride | 25.00 mmol, 2.330 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 100 mmol, 7.74 mL | CN(C)C=O | C3H7NO
reactant | valeraldehyde | 25.0 mmol, 2.66 mL | C(CCCC)=O | C5H10O
reactant | K2CO3 | 7.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethyl amine | 8.0 mL | CNC | C2H7N
solvent | 1,2-dichloroethane | 5.0 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 10.0 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 5.0 mL | ClCCCl | C2H4Cl2
product | 2-((dimethylamino)methylene)pentanal | 200 mg, 5.7% | CN(C)C=C(C=O)CCC | C8H15NO
